* source 555-TIMER
R_R1         N02974 OUT  240 TC=0,0 
R_R2         OUT N00720  240 TC=0,0 
R_R3         THRESHOLD OUT  36k TC=0,0 
R_R4         N00819 THRESHOLD  220k TC=0,0 
V_V1         N00819 0 0Vdc
C_C1         0 THRESHOLD  10u  TC=0,0 
C_C2         0 CONTROL  10n  TC=0,0 
X_U2         0 THRESHOLD OUT N00819 CONTROL THRESHOLD DISCHARGE N00819 555B
